US07291635B2
To a mixture of 2.1 g (8.9 mmol) of the title B compound, (4-amino-3-methylphenoxy)-acetic acid t-butyl ester and 2.44 g (17.7 mmol) of potassium carbonate in 8 mL of DMF are added 1.76 g (11.5 mmol) of methyl bromoacetate. The mixture is stirred at 60° C. for 1 h, then allowed to cool to RT. The mixture is poured into water and extracted with EtOAc. The organic phase is washed with water and brine, and dried over anhydrous Na2SO4. The solvent is removed under reduced pressure and the residue is chromatographed using CH2Cl2 as the eluant to afford (4-t-butoxycarbonylmethoxy-2-methylphenylamino)-acetic acid methyl ester as an oil (contaminated with approx 25% of dialkylated product): 1H-NMR (CDCl3) δ 6.76-6.64 (m, 2H), 6.40 (d, J=8.46, 1H), 4.43 (s, 2H), 3.91 (s, 2H), 3.78 (s, 3H), 2.19 (s, 3H), 1.48 (s, 9H).

reactant | (4-amino-3-methylphenoxy)-acetic acid t-butyl ester | C(C)(C)(C)OC(COC1=CC(=C(C=C1)N)C)=O | C13H19NO3
reactant | potassium carbonate | 17.7 mmol, 2.44 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl bromoacetate | 11.5 mmol, 1.76 g | BrCC(=O)OC | C3H5BrO2
reactant | water | O | H2O
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | (4-t-butoxycarbonylmethoxy-2-methylphenylamino)-acetic acid methyl ester | COC(CNC1=C(C=C(C=C1)OCC(=O)OC(C)(C)C)C)=O | C16H23NO5
